US04508717
A solution of 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (mixture of the diastereoisomers) (94 g) in tetrahydrofuran (250 cc) is added in the course of 1 hour 40 minutes to a solution, at 40° C., of thioisonicotinamide (44 g) in N,N-dimethylacetamide (330 cc). The reaction mixture is stirred for 90 minutes at 40°-45° C. and then cooled to -15° C. and treated with methanesulphonyl chloride (18.5 cc) and then triethylamine (53 cc). The mixture is stirred for 1 hour at about -10° C. and then for 16 hours at 25° C. and then diluted with ethyl acetate (1.5 liters) and distilled water (1 liter). The organic phase is washed successively with 0.2 N hydrochloric acid (1.2 liters) and water (2×1 liter), then with a mixture of water (500 cc) and a saturated solution of sodium bicarbonate (150 cc) and finally with water (2×1 liter) and a saturated solution of sodium chloride (200 cc). The residue obtained after evaporation of the solvent to dryness under reduced pressure (30 mm Hg, 4 kPa) at 40° C. is chromatographed on a column (height =56 cm, diameter =80 cm) containing silica gel (0.2-0.06 mm), elution being carried out with a mixture of cyclohexane and ethyl acetate (50/50 by volume) and 800 cc fractions being collected. Fractions 8 to 12 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. to give 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-[2-(pyridin-4-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (24 g) in the form of a hard brown foam.

reactant | 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C(C=O)Br)NC(=O)OC(C)(C)C)=O | C27H27BrN2O6S
reactant | thioisonicotinamide | 44 g | C(C1=CC=NC=C1)(=S)N | C6H6N2S
reactant | methanesulphonyl chloride | 18.5 cc | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 53 cc | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 cc | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 330 cc | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 1.5 liters | C(C)(=O)OCC | C4H8O2
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-[2-(pyridin-4-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 24 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)C1=CC=NC=C1)NC(=O)OC(C)(C)C)=O | C33H30N4O5S2
